US06342765B1
A solution of 2-hydroxymethylimidazole (1.96 g ; 0.02 mole), imidazole (3.4 g; 0.05 mole), tert-butyldiphenylsilyl chloride (6.6 g; 0.024 mole) in DMF (20 ml) was stirred under an argon atmosphere for 16 hours. The mixture was extracted with ethyl acetate and purified by flash column chromatography eluting with a gradient 50-70% ethyl acetate/petroleum ether to give 2-(tert-butyldiphenylsilyloxymethyl)imidazole as a solid.

reactant | 2-hydroxymethylimidazole | 0.02 mole, 1.96 g | OCC=1NC=CN1 | C4H6N2O
reactant | imidazole | 0.05 mole, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 0.024 mole, 6.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(tert-butyldiphenylsilyloxymethyl)imidazole | Yield: 82% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1NC=CN1 | C20H24N2OSi
